US08629137B2
4-methyl-3H-benzoxazol-2-one
25.0 g (200 mmol) 2-amino-m-cresol and 70.4 mL (400 mmol) DIPEA were placed in 1.0 L DCM and cooled to 0° C. To this a solution of 38.0 g (227 mmol) CDI was added dropwise over 30 min. The mixture was stirred for 30 min at 0° C., then stirred overnight at RT. After evaporation of the reaction mixture i. vac. down to half the volume, the aqueous phase was washed with water (2×250 mL), 1M aqueous potassium hydrogen sulphate solution (1×250 mL) and again water (1×250 mL). The organic phase was evaporated down i. vac. The crude product left as a solid was triturated with a mixture of diethyl ether and PE, the precipitated solid was suction filtered, washed with PE and dried i. vac.

reactant | 2-amino-m-cresol | 200 mmol, 25.0 g | NC1=C(C=CC=C1O)C | C7H9NO
reactant | DIPEA | 400 mmol, 70.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CDI | 227 mmol, 38.0 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | DCM | 1.0 L | C(Cl)Cl | CH2Cl2
product | 4-methyl-3H-benzoxazol-2-one | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
